US09416083B2
A solution of ingenol-5,20-acetonide (100 mg, 0.26 mmol), angelic acid (39 mg, 0.39 mmol, 1.5 mol. equiv.) and DMAP (48 mg, 0.39 mmol, 1.5 mol. equiv.) in toluene (4 ml), was stirred at room temperature for 2 hours and was then filtered through a bed of celite and evaporated. The resulting material was filtered in silica gel (ca. 5 g) and evaporated. The residue was purified by means of silica gel gravity column chromatography (5 g, petroleum ether:EtOAc 85:15) until obtaining over 80 mg of ingenol-3-angelate with a purity>99%. For physical and spectroscopic data, see Hohmann J et al. Planta Medica 2000, 66, 291-294.

reactant | ingenol-5,20-acetonide | 0.26 mmol, 100 mg | C[C@@H]1CC2C(C2(C)C)C3C=C4COC(O[C@H]4[C@]5(C1(C3=O)C=C([C@@H]5O)C)O)(C)C | C23H32O5
reactant | angelic acid | 0.39 mmol, 39 mg | C(\C(\C)=C/C)(=O)O | C5H8O2
catalyst | DMAP | 0.39 mmol, 48 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
product | ingenol-3-angelate | 80 mg | C/C=C(/C)\C(=O)O[C@H]1C(=C[C@@]23[C@@]1([C@@H](C(=C[C@H](C2=O)[C@H]4[C@H](C4(C)C)C[C@H]3C)CO)O)O)C | C25H34O6
